US05977134
Step 6: Preparation of 7-bromo-2-(1-(4-cyanobenzyl)-5-imidazolylmethyl)-1,2,3,4-tetrahydroisoquinoline
To a solution of 7-bromo-1,2,3,4-tetrahydroisoquinoline (0.742 g, 3.5 mmol) in CHCl2CHCl2 (15 mL) was added 1-(4-cyanobenzyl)-5-imidazole carboxaldehyde (0.812 g, 3.85 mmol), 4 Å sieves and NaBH(OAc)3 (1.11 g, 5.25 mmol). The mixture was stirred at room temperature for 16 h. and a further portion of NaBH(OAc)3 (0.55 g, 2.6 mmol) was added. After an additional 24 h the mixture was diluted with EtOAc, filtered through celite, washed with brine, dried (Na2SO4) and concentrated. The residue was stirred in 2N Hcl (50 mL) for 2 h. then extracted with ether. The aqueous layer was basified with 6N KOH and extracted 3× CH2Cl2 which was then washed with brine, dried (Na2SO4) and the solvent evaporated in vacuo. Crystallization from ether afforded the title compound as a white solid.

reactant | 7-bromo-1,2,3,4-tetrahydroisoquinoline | 3.5 mmol, 0.742 g | BrC1=CC=C2CCNCC2=C1 | C9H10BrN
reactant | 1-(4-cyanobenzyl)-5-imidazole carboxaldehyde | 3.85 mmol, 0.812 g | C(#N)C1=CC=C(CN2C=NC=C2C=O)C=C1 | C12H9N3O
reactant | NaBH(OAc)3 | 5.25 mmol, 1.11 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaBH(OAc)3 | 2.6 mmol, 0.55 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CHCl2CHCl2 | 15 mL | C(Cl)(Cl)C(Cl)Cl | C2H2Cl4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-bromo-2-(1-(4-cyanobenzyl)-5-imidazolylmethyl)-1,2,3,4-tetrahydroisoquinoline | BrC1=CC=C2CCN(CC2=C1)CC1=CN=CN1CC1=CC=C(C=C1)C#N | C21H19BrN4
